US08664401B2
2-[3-(Tetrahydro-2H-pyran-2-yloxy)cyclobutyl]ethanol (1.08 g, 5.39 mmol) was dissolved in tetrahydrofuran (20 mL) and was cooled in an ice bath. Triphenylphosphine (2.12 g, 8.09 mmol) and 4-bromo-phenol (1.12 g, 6.47 mmol) were added and the reaction was stirred until dissolved. Diethylazodicarboxylate (1.45 g, 8.09 mmol) was added dropwise to the reaction and the reaction was then warmed to room temperature and stirred for 48 hours. The reaction was diluted with ethyl acetate and washed with 1 N aqueous sodium hydroxide. The organic layer was dried over magnesium sulfate, filtered and evaporated in vacuo to give a clear oil. Purification on silica gel with heptane-ethyl acetate (15% ethyl acetate) gave 2-({3-[2-(4-bromophenoxy)ethyl]cyclobutyl}oxy)tetrahydro-2H-pyran (622 mg, 32.4%) as a clear oil. Partial 1H NMR indicated a ˜4:1 mix of unknown cis-trans isomers. (CDCl3, δ ppm, key peaks are 4.08 (m, 0.80H), 4.38 (m, 0.20H), 6.74 (d, J=8.98, 2H), 7.34 (d, J=9.18, 2H).

reactant | 2-[3-(Tetrahydro-2H-pyran-2-yloxy)cyclobutyl]ethanol | 5.39 mmol, 1.08 g | O1C(CCCC1)OC1CC(C1)CCO | C11H20O3
reactant | Triphenylphosphine | 8.09 mmol, 2.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-bromo-phenol | 6.47 mmol, 1.12 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | Diethylazodicarboxylate | 8.09 mmol, 1.45 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-({3-[2-(4-bromophenoxy)ethyl]cyclobutyl}oxy)tetrahydro-2H-pyran | 622 mg, 32.4% | BrC1=CC=C(OCCC2CC(C2)OC2OCCCC2)C=C1 | C17H23BrO3
